US07888364B2
260 mg of methyl 4-((pyridin-2-ylthio)methyl)benzoate was reacted via Procedure R to give methyl 4-((pyridin-2-ylsulfonyl)methyl)benzoate. 275 mg of methyl 4-((pyridin-2-ylsulfonyl)methyl)benzoate was hydrolyzed via Procedure M to give 4-((pyridin-2-ylsulfonyl)methyl)benzoic acid. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-((pyridin-2-ylsulfonyl)methyl)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield pure N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((pyridin-2-ylsulfonyl)methyl)benzamide. MS (Q1) 464.1 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-((pyridin-2-ylsulfonyl)methyl)benzoic acid | N1=C(C=CC=C1)S(=O)(=O)CC1=CC=C(C(=O)O)C=C1 | C13H11NO4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((pyridin-2-ylsulfonyl)methyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CS(=O)(=O)C1=NC=CC=C1)=O)C1=NC=CC=C1 | C24H18ClN3O3S
